2152-08-02 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Erythromycin Base
   Diarrhea;
   Zoloft (Oral) (Sertraline Hcl)
   Diarrhea;
   Last dose of Antibiotics:
   Piperacillin - [**2152-8-1**] 04:07 PM
   Daptomycin - [**2152-8-2**] 12:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-8-2**] 12:37 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-8-1**] 08:37 PM
   Other medications:
   Acetaminophen
   Albuterol 0.083% Neb Soln
    Bisacodyl
   Calcium Carbonate
   Clonazepam
   Daptomycin
   Fluoxetine
   Ketoconazole 2%
    Lorazepam
   Norepinephrine
    Ondansetron
    Oxybutynin
   Pantoprazole
   Piperacillin-Tazobactam
   Potassium Chloride
   Psyllium Wafer
   Quetiapine Fumarate
   Simethicone
   Testosterone 5mg Patch
   Vitamin D
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-8-2**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 71 (65 - 86) bpm
   BP: 98/61(69) {80/51(58) - 166/97(111)} mmHg
   RR: 21 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    SvO2: 70%
   Total In:
                                                                  1,922 mL
                                                                    187 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                    822 mL
                                                                    187 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,135 mL
                                                                    895 mL
   Urine:
                                                                  2,135 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -213 mL
                                                                   -708 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   283 K/uL
   9.9 g/dL
   105 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.0 mEq/L
   12 mg/dL
   100 mEq/L
   132 mEq/L
   28.9 %
   9.6 K/uL
        [image002.jpg]
                             [**2152-8-1**]  02:40 AM
                             [**2152-8-1**]  12:00 PM
                             [**2152-8-1**]  05:20 PM
                             [**2152-8-1**]  11:10 PM
                             [**2152-8-2**]  04:41 AM
   WBC
   13.9
   9.6
   Hct
   30.5
   30.5
   30.0
   28.9
   Plt
   309
   283
   Cr
   1.0
   0.9
   0.9
   Glucose
   80
   85
   105
   Other labs: PT / PTT / INR:15.4/29.6/1.3, ALT / AST:[**11-28**], Alk Phos / T
   Bili:179/2.6, Differential-Neuts:94.1 %, Lymph:2.9 %, Mono:2.1 %,
   Eos:0.8 %, Lactic Acid:0.6 mmol/L, Albumin:3.0 g/dL, LDH:152 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Blood 7/10, 13,14 pending
   Urine [**7-31**], pending
   Nephrostomy [**7-31**] poly leuks, 2+GNR, 2+GPC pairs
   [**7-28**] urine Pseudomonas aeur.
   Imaging: final CT abd/pelvis [**8-1**]: Little overall short interval change
   since recent comparison aside from new
   right percutaneous nephrostomy tube in expected position. No
   hydronephrosis
   or retroperitoneal hematoma identified. Large 1.3-cm stone in the right
   UPJ
   is again appreciated and unchanged in position.
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan: This is a 64M with quadraplegia, multiple prior
   infections and recent lower GIB presents with fevers and hypotension
   .
   # Hypotension.  Pt does have autonomic dysfuntion at baseline, but
   given the severity and refractoriness of this hypotension combined with
   a fever, this would be a diagnosis of exclusion in a setting where
   there are multiple more likely diagnoses. Ddx includes, sepsis, with
   either bacterial showering from nephrostomy tube, or introduction of
   skin flora during procedure.  Pt's infectious history is complicated as
   he appears to have relapsing UTIs despite having completed a course of
   appropriate abx. The presence of an obstructing stone is likely
   etiology for persistent infections. Pt now s/p decompression with
   nephrostomy tube. Also high on ddx is acute bleed, pt has both h/o
   recent GIB with colonoscopy and biopsy as well as the nephrostomy tube
   placement.  The sedation he received for the colonoscopy in addition to
   his BB, lack of PO intake x ~3 days and percocet he received in the
   afternoon may have played a role in the severity of his hypotension.
   His lactate and UOP are reassuringly normal at this time after fluid
   rescusitation.
   -Treat possible infection broadly with zosyn to cover for gram
   negatives, likely of urinary source, and daptomycin to cover for both
   staph as well as VRE given h/o positive swab.
   -f/u ID recs.
   -f/u urine culture from nephrostomy tube as well as other surveillance
   cultures.
   -s/p 3L IVF.
   -Transfuse 2U PRBCs, follow hct in am and GAS.
   -CT abd/pelvis stat to eval for occult RP bleed.
   -levophed prn for vasopressor support to keep MAP >60, trend SV02,
   lactate.
   -hold regular sedatives (seroquel, BZDs) until BP normalizes.
   .
   # Colon mass
   -f/u colonic biopsy
   -d/w management with GI pending bx results
   .
   # Obstructing ureteral stone. s/p perc nephrostomy tube.
   -f/u uro recs
   -abx mgmt per above
   .
   # Hyponatremia - at baseline, monitor
   .
   # HTN - hold anti-hypertensives while hypotensive
   .
   # Depression/anxiety: Continue fluoxetine.
   .
   # OSA - CPAP per home
   .
   # FEN: Bolus IVF prn, PRBCs, NPO tonight, order diet in am after CT
   scan. Pt asking for ensure shakes with meals.  Lytes prn.  Current BMP
   c/w non-gap acidosis, potentially from large resucitation with NS.
   Consider LR or bicarb if needs more fluid.
   .
   # Prophylaxis: Pneumoboots
   .
   # Access: RIJ presep catheter
   .
   # Code: Confirmed full
   .
   # Communication: Patient, wife is [**Name (NI) 3323**] [**Name (NI) 9611**] [**Telephone/Fax (1) 9612**]
   .
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-8-1**] 01:30 AM
   22 Gauge - [**2152-8-1**] 01:57 AM
   Presep Catheter - [**2152-8-1**] 02:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2152-08-03 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Allergies:
   Erythromycin Base
   Diarrhea;
   Zoloft (Oral) (Sertraline Hcl)
   Diarrhea;
   Last dose of Antibiotics:
   Piperacillin - [**2152-8-1**] 04:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2152-8-3**] 12:49 AM
   Daptomycin - [**2152-8-3**] 12:49 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Acetaminophen 6. Albuterol 0.083% Neb Soln 7. Bisacodyl 8. Bisacodyl 9.
   Calcium Carbonate
   10. Clonazepam 11. Daptomycin 12. Fluoxetine 13. HydrALAzine 14.
   Ketoconazole 2% 15. Lorazepam
   16. Metoprolol Tartrate 17. Norepinephrine 18. Ondansetron 19.
   Oxybutynin 20. Pantoprazole 21. Piperacillin-Tazobactam
   22. Psyllium Wafer 23. Quetiapine Fumarate 24. Simethicone 25. Sodium
   Chloride 0.9% Flush 26. Sodium Chloride 0.9% Flush
   27. Sodium Chloride 0.9% Flush 28. Testosterone 5mg Patch 29. Vitamin D
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no lightheadedness, feels well
   Flowsheet Data as of  [**2152-8-3**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 74 (66 - 89) bpm
   BP: 84/65(69) {77/53(27) - 169/137(129)} mmHg
   RR: 24 (16 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
    SvO2: 77%
   Total In:
                                                                  1,900 mL
                                                                    150 mL
   PO:
                                                                  1,050 mL
   TF:
   IVF:
                                                                    850 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                  1,230 mL
   Urine:
                                                                  2,005 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -105 mL
                                                                 -1,080 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   Gen: NAD, sitting upright
   CV: rrr nl s1/s2 no murmurs
   Pulm: cta b/l
   Abd +B@, soft, NT +distented
   Ext: no edema, warm-wellperfused
   Labs / Radiology
   317 K/uL
   10.2 g/dL
   110 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   12 mg/dL
   102 mEq/L
   134 mEq/L
   29.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2152-8-1**]  02:40 AM
                             [**2152-8-1**]  12:00 PM
                             [**2152-8-1**]  05:20 PM
                             [**2152-8-1**]  11:10 PM
                             [**2152-8-2**]  04:41 AM
                             [**2152-8-2**]  05:07 PM
                             [**2152-8-3**]  04:03 AM
   WBC
   13.9
   9.6
   8.9
   Hct
   30.5
   30.5
   30.0
   28.9
   30.3
   29.8
   Plt
   [**Telephone/Fax (3) 9628**]
   Cr
   1.0
   0.9
   0.9
   0.9
   Glucose
   80
   85
   105
   110
   Other labs: PT / PTT / INR:14.7/30.6/1.3, ALT / AST:[**11-28**], Alk Phos / T
   Bili:179/2.6, Differential-Neuts:94.1 %, Lymph:2.9 %, Mono:2.1 %,
   Eos:0.8 %, Lactic Acid:0.6 mmol/L, Albumin:3.0 g/dL, LDH:152 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan: This is a 64M with quadraplegia, multiple prior
   infections and recent lower GIB presents with fevers and hypotension
   .
   # Hypotension/+Enterococcus/+Staph on urine only.  Likely
   multifactorial 2/2 blood loss, infxn.  BPs stable off levophed.
   -Treat infection broadly with zosyn (D1 [**7-30**]) to cover for gram
   negatives, likely of urinary source, anded daptomycin (D1 [**7-31**]) to
   cover for both staph as well as VRE given h/o positive swab, use [**Last Name (un) **]
   if decompensate per ID
   -call lab to be sure will send sensitivities
   -f/u ID recs
   -f/u urine culture from nephrostomy tube as well as other surveillance
   cultures.
   -CT abd/pelvis showed no acute bleed
   -restarted seroquel, benzos as BP stabilized; hold again if he drops
   -HCTs stable
   .
   # Colon mass
   -f/u colonic biopsy
   -to f/u with Dr. [**Last Name (STitle) **], sigmoidectomy as outpat.
   .
   # Obstructing ureteral stone. s/p perc nephrostomy tube.
   treatment, has been seen by Dr. [**Last Name (STitle) 1919**] [**Last Name (STitle) **] past.  Will contact Dr. [**Last Name (STitle) 1919**] [**Last Name (STitle) **]
   see if any way it can be done as inpatient given pt.
s request
   -radiology signing off
   -abx mgmt per above
   .
   # Hyponatremia - at baseline, monitor
   .
   # HTN
 restarted antihypertensives
   -d/c Hydral since BPS 70s-80s.
   -continue Metoprolol
   -start Amlodipine at home dose
   -restart home HCTZ during hospitalization if BPs can tolerate
   .
   # Depression/anxiety: Continue fluoxetine, benzos
   .
   # OSA - CPAP per home
   .
   # FEN: replete potassium, diet
   .
   # Prophylaxis: Pneumoboots
   .
   # Access: RIJ presep catheter
   .
   # Code: Confirmed full
   .
   # Communication: Patient, wife is [**Name (NI) 3323**] [**Name (NI) 9611**] [**Telephone/Fax (1) 9612**]
   .
   # Disposition: c/o today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-8-1**] 01:30 AM
   22 Gauge - [**2152-8-1**] 01:57 AM
   Presep Catheter - [**2152-8-1**] 02:30 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: c/o to floor